US08633173B2
[8-(2-methoxy-5-triflouromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-amine was prepared from 2-chloro-8-(2-methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine (0.150 g, 0.5 mmol), and 4-(morpholin-4-yl-ethoxy)-phenylamine (0.130 g, 0.58 mmol) in a manner analogous to Example 2d. Product was isolated as a foam (0.19 g, 81%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.43 (d, J=6.8 Hz, 1H), 7.96 (s, 1H), 7.68 (d, J=8.9 Hz, 1H), 7.55 (d, J=5.7 Hz, 1H), 7.51-7.46 (m, 2H), 7.12 (d, J=7.9 Hz, 1H), 6.94-6.89 (m, 1H), 6.77 (d, J=6.8 Hz, 1H) 6.71 (s, 1H) 6.65 (d, J=7.9 Hz, 1H), 4.15-4.03 (m, 2H), 3.89 (s, 3H), 3.78-3.71 (m, 4H), 2.86-2.76 (m, 2H), 2.64-2.56 (m, 4H). MS=514 (MH)+.

reactant | 2-chloro-8-(2-methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | 0.5 mmol, 0.150 g | ClC1=NN2C(C(=CC=C2)C2=C(C=CC(=C2)C(F)(F)F)OC)=N1 | C14H9ClF3N3O
reactant | 4-(morpholin-4-yl-ethoxy)-phenylamine | 0.58 mmol, 0.130 g | N1(CCOCC1)CCOC1=CC=C(C=C1)N | C12H18N2O2
product | [8-(2-methoxy-5-triflouromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-amine | COC1=C(C=C(C=C1)C(F)(F)F)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)OCCN2CCOCC2 | C26H26F3N5O3
